US04689345
3-(5-Hydroxypent-1-yl)cyclopentene {2-cyclopentene-1-pentanol}
3-(5-[(1,1-Dimethylethyl)dimethylsiloxy]pent-1-yl)cyclopentene (300 g, 1.170 moles) is diluted with acetonitrile (3000 ml) and a 40% stock solution of hydrofluoric acid (166 ml) is added. The reaction is stirred at room temperature for 10 minutes and then slowly neutralized with a saturated solution of sodium bicarbonate. The reaction is partitioned between ether (1500 ml) and the aqueous phase extracted with ether (1×1000 ml). The organic layers are combined and the solvent volume is reduced under vacuum. The residue is dried over anhydrous sodium sulfate and the remaining solvent removed leaving a clear, colorless oil. The product is kugelrohred under vacuum leaving a product sufficiently pure for the next reaction (171 g, 1.11 moles).

reactant | 3-(5-[(1,1-Dimethylethyl)dimethylsiloxy]pent-1-yl)cyclopentene | 1.170 moles, 300 g | CC(C)(C)[Si](OCCCCCC1C=CCC1)(C)C | C16H32OSi
reactant | hydrofluoric acid | 166 ml | F | FH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 3000 ml | C(C)#N | C2H3N
product | 3-(5-Hydroxypent-1-yl)cyclopentene | OCCCCCC1C=CCC1 | C10H18O
